US07501414B2
2,6-Dimethyl-4-morpholin-4-yl-phenylamine
Bis(dibenzylideneacetone)palladium (2.88 g) and (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (4.69 g) were added to dry toluene (175 mL purged with argon) and stirred for 15 minutes under argon. Potassium tert-butoxide (7.06 g), morpholine (8.7 mL) and 4-bromo-2,6-dimethylaniline (10.03 g) were added subsequently. The reaction mixture was heated to reflux for 16 hours under argon, cooled and filtered through silica (200 g). Brine (250 mL) was added and the mixture was extracted with ethyl acetate (3×200 mL). The combined organic phases were dried over magnesium sulfate and concentrated in vacuo. The crude product was dissolved in diethyl ether (250 mL), filtered through silica (200 g) and concentrated in vacuo to furnish 8.5 g (41% yield) of the title compound as a dark oil. The product was used without further purification. GC-MS (m/z) 206 (M+); tR=6.90. 1H NMR (500 MHz, CDCl3): 2.18 (s, 6H), 3.02 (m, 4H), 3.85 (m, 4H), 6.62 (b, 2H).

reactant | (±)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 4.69 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | Potassium tert-butoxide | 7.06 g | CC(C)([O-])C.[K+]
reactant | morpholine | 8.7 mL | N1CCOCC1 | C4H9NO
reactant | 4-bromo-2,6-dimethylaniline | 10.03 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
catalyst | Bis(dibenzylideneacetone)palladium | 2.88 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 175 mL | C1(=CC=CC=C1)C | C7H8
product | 2,6-Dimethyl-4-morpholin-4-yl-phenylamine | 8.5 g, 41% yield | CC1=C(C(=CC(=C1)N1CCOCC1)C)N | C12H18N2O
